US05093370
4,4'-Bis(3-triethylammoniopropyl)biphenyl diiodide
To a solution of 400 mg of 4,4'-bis(3-diethylaminopropyl)biphenyl in 4 ml of ethanol was added 0.84 ml of ethyl iodide, and the mixture was refluxed for 3 hours. After adding further 0.42 ml of methyl iodide, the mixture was refluxed for 2 hours and concentrated under a reduced pressure. To the concentrate were added 5 ml of acetone and 50 ml of ethyl acetate. The resulting crystal was collected by filtration, washed with ethanol, acetone and n-hexane, and dried under a reduced pressure. The obtained pale yellow powder was recrystallized from 10 ml of ethanol to obtain 475 mg of the title compound as a pale yellow crystal.

reactant | 4,4'-bis(3-diethylaminopropyl)biphenyl | 400 mg | C(C)N(CCCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCN(CC)CC)CC | C26H40N2
reactant | ethyl iodide | 0.84 ml | C(C)I | C2H5I
reactant | methyl iodide | 0.42 ml | CI | CH3I
reactant | ethanol | 4 ml | C(C)O | C2H6O
product | 4,4'-Bis(3-triethylammoniopropyl)biphenyl diiodide | 475 mg | [I-].[I-].C(C)[N+](CCCC1=CC=C(C=C1)C1=CC=C(C=C1)CCC[N+](CC)(CC)CC)(CC)CC | InChI=1S/C30H50N2.2HI/c1-7-31(8-2,9-3)25-13-15-27-17-21-29(22-18-27)30-23-19-28(20-24-30)16-14-26-32(10-4,11-5)12-6;;/h17-24H,7-16,25-26H2,1-6H3;2*1H/q+2;;/p-2
